US06432982B1
[2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3-fluorophenyl]methanone Hydrochloride
960 mg (1.85 mmol) of [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3-fluorophenyl]methanone was dissolved in 30 mL of methylene chloride and cooled to 0° C. and 2.5 g (18.5 mmol) of AlCl3 was added in portions over a 10 minute interval. To the reaction mixture was added 2.75 mL (37 mmol) of EtSH and the reaction was stirred for 15 minutes. The reaction was heated to reflux and allowed to proceed for 1.5 hours. The reaction was allowed to cool and quenched with 100 mL of ice water. The crude product precipitated out and was collected by decanting off the liquids. The solid was dissolved in 50 mL of MeOH and chromatographed on a silica gel column eluted with a solvent of MeOH-CHCl3 (1:9). The appropriate fractions were determined by tlc and combined. The combined fractions were evaporated to dryness in vacuo. The residue was dissolved in 25 mL of MeOH and precipitated by adding a MeOH-HCl solution until no more precipitate formed. The liquid was decanted off and the salt re-dissolved in a minimal amount of MeOH. Ether was then added and the product was allowed to crystallize at −20° C. This yielded 470 mg of the title compound.

reactant | [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3-fluorophenyl]methanone | 1.85 mmol, 960 mg | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC(=C(C=C2)OCCN2CCCCC2)F | C30H30FNO4S
reactant | AlCl3 | 18.5 mmol, 2.5 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | EtSH | 37 mmol, 2.75 mL | CCS | C2H6S
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | [2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3-fluorophenyl]methanone Hydrochloride | Cl.OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)C(=O)C2=CC(=C(C=C2)OCCN2CCCCC2)F | InChI=1S/C28H26FNO4S.ClH/c29-23-16-19(6-11-24(23)34-15-14-30-12-2-1-3-13-30)27(33)26-22-10-9-21(32)17-25(22)35-28(26)18-4-7-20(31)8-5-18;/h4-11,16-17,31-32H,1-3,12-15H2;1H
